US04820729
A. Ethyl N-Carbobenzyloxy-L-Alanyl-N-Benzyl-Glycinate
To a solution of ethyl N-benzyl-glycinate (47.5 g, 0.268 mol) and N-carbobenzyloxy-L-alanine (60.0 g, 0.268 mol) in 600 ml of methylene chloride at 0° C. was added dropwise a solution of N,N'-dicyclohexylcarbodiimide (55.2 g, 0.268 mol) in 600 ml methylene chloride over a 1 hour period. After the addition was complete the solution was stirred for 10 min., warmed to room temperature and continued stirring overnight. The solution was filtered, washed with dilute aqueous HCl, H2O, saturated NaHCO3, brine, dried (MgSO4). Concentration of the solution in vacuo yielded the oily product.

reactant | ethyl N-benzyl-glycinate | 0.268 mol, 47.5 g | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
reactant | N-carbobenzyloxy-L-alanine | 0.268 mol, 60.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | N,N'-dicyclohexylcarbodiimide | 0.268 mol, 55.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | Ethyl N-Carbobenzyloxy-L-Alanyl-N-Benzyl-Glycinate | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)OCC)CC1=CC=CC=C1 | C22H26N2O5
